US09029560B2
Preparation of (Z)-1-(3-(2-isopropylphenyl)-4-oxothiazolidin-2-ylidene)-3-((E)-2-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)prop-1-en-1-yl)urea (F13)
(E)-3-(4-(1-(4-(Trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)but-2-enoyl azide (C29) (0.28 g, 0.68 mmol) in acetonitrile (3.4 mL) was heated at 80° C. for 3 hours. The reaction was cooled and 1-(2-isopropylphenyl)thiourea (0.14 g, 0.74 mmol) and cesium carbonate (0.28 g, 0.86 mmol) were added. The reaction was stirred at room temperature overnight, diluted with ethyl acetate and washed with water. The organic layers were dried over anhydrous sodium sulfate, filtered, and concentrated to provide an orange foam. To the crude material (0.39 g) was added sodium acetate (0.082 g, 1.0 mmol), ethanol (3.4 mL), and methyl 2-bromoacetate (0.10 mL, 1.0 mmol). The reaction mixture was heated at 65° C. for 3 hours. The reaction was cooled, diluted with ethyl acetate, and washed with water. The organic layers were dried over anhydrous sodium sulfate, filtered, and concentrated. The crude compound was loaded onto a Celite® cartridge with dichloromethane and purified by flash column chromatography using 0-100% ethyl acetate/B, where B=1:1 dichloromethane/hexanes, as eluent to afford the title compound as an orange sticky gum (0.16 g, 37%).

reactant | (E)-3-(4-(1-(4-(Trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)but-2-enoyl azide | 0.68 mmol, 0.28 g | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)/C(=C/C(=O)N=[N+]=[N-])/C)(F)F | C19H13F3N6O2
reactant | 1-(2-isopropylphenyl)thiourea | 0.74 mmol, 0.14 g | C(C)(C)C1=C(C=CC=C1)NC(=S)N | C10H14N2S
reactant | cesium carbonate | 0.86 mmol, 0.28 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | sodium acetate | 1.0 mmol, 0.082 g | C(C)(=O)[O-].[Na+]
reactant | methyl 2-bromoacetate | 1.0 mmol, 0.10 mL | BrCC(=O)OC | C3H5BrO2
reactant | acetonitrile | 3.4 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 3.4 mL | C(C)O | C2H6O
product | (Z)-1-(3-(2-isopropylphenyl)-4-oxothiazolidin-2-ylidene)-3-((E)-2-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)prop-1-en-1-yl)urea | 0.16 g, 37% | C(C)(C)C1=C(C=CC=C1)N1/C(/SCC1=O)=N/C(=O)N\C=C(/C)\C1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C31H27F3N6O3S
